US06417323B1
50 mL of Catalyst B and 32.6 g of stearyl glycidyl ether (SGE) were added to 210 mL of toluene, and a vessel was closed with the stopper. Then, the polymerization was carried out at 100° C. for 6 hours. The vessel was left to be cool to 40 ° C., and then opened. 25.0 g of methyl methacrylate was added, and the vessel was closed with the stopper. The polymerization was further carried out at 120° C. for 6 hours. The reaction solution was added to a large amount of acetone containing a small amount of a dilute solution of hydrogen chloride. A precipitated solid was dried under reduced pressure at 80° C. for 24 hours to obtain a poly(stearyl glycidyl ether/methyl methacrylate) copolymer. Colorless solid. Yield 61%.

reactant | stearyl glycidyl ether | 32.6 g | C(C1CO1)OCCCCCCCCCCCCCCCCCC | C21H42O2
reactant | toluene | 210 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl methacrylate | 25.0 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | stearyl glycidyl ether methyl methacrylate | Yield 61% | C(C1CO1)OCCCCCCCCCCCCCCCCCC.C(C(=C)C)(=O)OC | InChI=1S/C21H42O2.C5H8O2/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-22-19-21-20-23-21;1-4(2)5(6)7-3/h21H,2-20H2,1H3;1H2,2-3H3
